US09102673B2
Step 1: Methyl 4-chloro-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
To a solution of Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (350 mg, 1.662 mmole) in DMF (6 mL) was added NaH (60% dispersion in mineral oil, 86 mg, 2.160 mmole) portionwise at RT. After gas evolution had ceased a solution of 1-(2-bromoethoxy)-4-(trifluoromethoxy)benzene (616 mg, 2.160 mmole) in DMF (1 mL) was added. After the addition was complete the mixture was heated to 60° C. After 4 hr the mixture was cooled to RT. The mixture was diluted with water and extracted with EtOAc (3×). The combined organic layers were washed with H2O and brine, dried (MgSO4), filtered, and concentrated. Flash column (Biotage-SNAP-25 g SiO2, 30% EtOAc/hexanes) gave the title compound (492 mg, 71%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.21 (d, J=6.0 Hz, 1 H); 7.45 (s, 1 H); 7.42 (d, J=6.0 Hz, 1 H); 7.07 (d, J=8.6 Hz, 2 H); 6.76-6.70 (m, 2 H); 4.93 (t, J=5.13 Hz, 2 H); 4.34 (t, J=5.0 Hz, 3 H); 3.95 (s, 3 H).

reactant | Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 1.662 mmole, 350 mg | ClC1=NC=CC2=C1C=C(N2)C(=O)OC | C9H7ClN2O2
reactant | NaH | 2.160 mmole, 86 mg | [H-].[Na+]
reactant | 1-(2-bromoethoxy)-4-(trifluoromethoxy)benzene | 2.160 mmole, 616 mg | BrCCOC1=CC=C(C=C1)OC(F)(F)F | C9H8BrF3O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 4-chloro-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 492 mg, 71% | ClC1=NC=CC2=C1C=C(N2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OC | C18H14ClF3N2O4
